US07157447B2
2-Bromomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide.
Under nitrogen, a mixture of intermediate 45, 5-fluoro-2,N,N-trimethyl-benzenesulfonamide, (435 mg, 2.0 mmol) and N-bromosuccinimide (391 mg, 2.2 mmol) in CCl4 (20 mL) was stirred at 80–90° C. for 5 min. To this mixture was added 2,2′-azobisisobutyronitrile (AIBN, 100 mg) and stirring continued at 80–90° C. for 30 min. After cooling, the insoluble precipitates were filtered and the filtrate concentrated and purified by column chromatography (SiO2, CH2Cl2) to provide 440 mg (Yield 74%) of the title compound; 1H NMR (500 MHz, CDCl3) δ ppm: 2.87 (6H, s) 4.86 (2H, s) 7.28 (1H, dd, J=8.55, 2.75 Hz) 7.61–7.65 (2H, m); LC/MC m/z 296/298 (M+H).

reactant | 5-fluoro-2,N,N-trimethyl-benzenesulfonamide | 2.0 mmol, 435 mg | FC=1C=CC(=C(C1)S(=O)(=O)N(C)C)C | C9H12FNO2S
reactant | N-bromosuccinimide | 2.2 mmol, 391 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | 440 mg, Yield 74% | BrCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11BrFNO2S
